US07435709B2
Branched pentadecylphenol calcium salt—was prepared from the alkylation of phenol with a branched chain C14-C18 olefin derived primarily from propylene pentamer. To a 2 liter round bottom flask equipped with a mechanical stirrer, Dean Stark trap fitted with a condenser under an atmosphere of dry nitrogen was charged 705 gm (2.32 moles) of a C15 branched alkylphenol followed by 500 gm of Chevron RLOP 100N oil. This mixture was cooled to approximately 13° C. using an ice bath and then 48.8 gm (1.16 moles) of calcium hydride (98% obtained from Aldrich Chemical Company) was added in approximately 10 gram portions with stirring. The reaction was then heated to 100° C. over 50 minutes and then heated to 200° C. for over 140 minutes and held at 200° C. for approximately 18 hours and then heated to 280° C. over 1 hour and held at 280° C. for 8.5 hours and then cooled to 230° C. and held at 230° C. for approximately 14 hours. The reaction was then cooled to 150° C. and filtered through a dry, hot (150° C.) 600 ml Buchner funnel containing a filter bed of Celite and maintained between 110 and 120° C. with the aid of vacuum to afford a product containing 3.51 wt. % calcium.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | propylene pentamer | CC=C.CC=C.CC=C.CC=C.CC=C | 5C3H6
reactant | calcium hydride | 1.16 moles, 48.8 gm | [H-].[Ca+2].[H-]
reactant | calcium | [Ca] | Ca
product | pentadecylphenol calcium salt | [Ca].C(CCCCCCCCCCCCCC)C1=C(C=CC=C1)O | InChI=1S/C21H36O.Ca/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-17-20-18-15-16-19-21(20)22;/h15-16,18-19,22H,2-14,17H2,1H3;
